US08048862B2
A solution of 3-tert-butoxycarbonylaminopropanoic acid (2 g, 10.6 mmol.) and HOSu (1.22 g, 10.6 mmol.) in 40 mL DCM/Dioxane (2:1) was cooled in an ice bath. To this solution was added DCC (2.4 g, 11.6 mmol.), and the mixture was stirred at room temperature for 1 h. To the resulting mixture was added benzylamine (1.7 g, 15.8 mmol.), the mixture was stirred for 4 h at room temperature. The solid that formed in the mixture was removed by filtration and washed with EtOAc. The filtrate and washings were combined and washed with 1N HCl and saturated aqueous NaHCO3. The organic layer was dried over Na2SO4, filtered and concentrated to afford 3-tert-butoxycarbonylamino-N-benzylpropionamide (2.4 g, 82%). 3-tert-Butoxycarbonylamino-N-benzylpropionamide was dissolved in cooled HCl/MeOH (20 mL) and the resulting mixture was stirred at room temperature for 1.5 h. The solvent was removed to afford 3-amino-N-benzylpropionamide hydrochloride (1.8 g, 100%).

reactant | 3-tert-butoxycarbonylaminopropanoic acid | 10.6 mmol, 2 g | C(C)(C)(C)OC(=O)NCCC(=O)O | C8H15NO4
reactant | HOSu | 10.6 mmol, 1.22 g | ON1C(=O)CCC1=O | C4H5NO3
reactant | DCC | 11.6 mmol, 2.4 g | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
reactant | benzylamine | 15.8 mmol, 1.7 g | C(C1=CC=CC=C1)N | C7H9N
solvent | DCM Dioxane | 40 mL | C(Cl)Cl.O1CCOCC1
product | 3-tert-butoxycarbonylamino-N-benzylpropionamide | 2.4 g, 82% | C(C)(C)(C)OC(=O)NCCC(=O)NCC1=CC=CC=C1 | C15H22N2O3
